* tt_analog_ring characterisation
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include /work/analog/out/pex/tt_analog_ring.pex.spice
Vdd VPWR 0 1.2
Vcode0 code[0] 0 0
Vcode1 code[1] 0 0
Vcode2 code[2] 0 0
Vcode3 code[3] 0 0
Vcode4 code[4] 0 0
Vin code[5] 0 pwl(0 0 1n 0 201n 1.2 300n 1.2)
Vcode6 code[6] 0 0
Vcode7 code[7] 0 0
Venable enable 0 1.2
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cl clk_out 0 0.01p
.control
tran 50p 250n
let q = integ(-i(Vin))
meas tran qtot find q at=201n
.endc
.end
